US07906660B2
Imidazole (0.18 g) was added to a suspension of 7-acetoxy-4′-methoxyisoflav-3-ene (0.06 g, 0.02 mmol) in absolute ethanol (5.0 ml) and the mixture was refluxed for 45 minutes under argon. The solution was concentrated under reduced pressure and the product was precipitated by addition of distilled water (10 ml). The mixture was left overnight in the fridge and filtered to yield isoflav-3-ene. The crude product was recrystallised from methanol/benzene to yield 7-hydroxy-4′-methoxyisoflav-3-ene (0.034 g, 66%). 1H NMR (CDCl3+d6-DMSO): δ 3.74 (s, 3H, OCH3), 4.99 (s, 2H, H2), 6.21 (d, 1H, J 2.3 Hz, H8), 6.29 (dd, 1H, J 2.3 Hz, 8.3 Hz, H6), 6.67 (bs, 1H, H4), 6.85 (d, 1H, J 8.3 Hz, H5), 6.86 (d, 2H, J 8.7 Hz, ArH), 7.33 (d, 2H, J 8.7 Hz, ArH).

reactant | Imidazole | 0.18 g | N1C=NC=C1 | C3H4N2
reactant | 7-acetoxy-4′-methoxyisoflav-3-ene | 0.02 mmol, 0.06 g | C(C)(=O)OC1=CC=C2C=C(COC2=C1)C1=CC=C(C=C1)OC | C18H16O4
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | isoflav-3-ene | O1CC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H12O
